US07745641B2
1-(tert-Butoxycarbonyl)-5-iodoindole (1.00 g, 2.91 mmol) was dissolved in diethylamine (20 mL), and the solution was added with bis(triphenylphosphine)dichloropalladium (163 mg, 0.233 mmol), cuprous iodide (44.4 mg, 0.233 mmol) and 1-dimethylamino-2-propyne (0.628 mL, 5.82 mmol), followed by stirring at 80° C. for 7.0 hours. The reaction mixture was added with water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by preparative thin-layer chromatography (chloroform/methanol=19/1) to obtain 1-(tert-butoxycarbonyl)-5-(3-dimethylamino-2-propyn-1-yl)indole (0.78 g, yield 90%).

reactant | 1-(tert-Butoxycarbonyl)-5-iodoindole | 2.91 mmol, 1.00 g | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)I | C13H14INO2
reactant | 1-dimethylamino-2-propyne | 5.82 mmol, 0.628 mL | CN(CC#C)C | C5H9N
reactant | water | O | H2O
solvent | diethylamine | 20 mL | C(C)NCC | C4H11N
catalyst | bis(triphenylphosphine)dichloropalladium | 0.233 mmol, 163 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(tert-butoxycarbonyl)-5-(3-dimethylamino-2-propyn-1-yl)indole | 0.78 g, yield 90% | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)CC#CN(C)C | C18H22N2O2
